US07985764B2
A 775 mg portion of tert-butyl 3-({[1-(4-fluorobenzyl)-2,3-dimethyl-1H-indol-5-yl]carbonyl}amino)pyrrolidine-1-carboxylate was dissolved in 3.2 ml of ethyl acetate, and 2.1 ml of 4 M hydrogen chloride/ethyl acetate was added, followed by stirring at room temperature for 15 minutes. Then, 2 ml of methanol was added, followed by overnight stirring at room temperature. The resulting solid was collected by filtration and washed with ethyl acetate/methanol (3/1) to obtain 479 mg of 1-(4-fluorobenzyl)-2,3-dimethyl-N-pyrrolidin-3-yl-1H-indole-5-carboxamide hydrochloride as a pale pink solid.

reactant | tert-butyl 3-({[1-(4-fluorobenzyl)-2,3-dimethyl-1H-indol-5-yl]carbonyl}amino)pyrrolidine-1-carboxylate | FC1=CC=C(CN2C(=C(C3=CC(=CC=C23)C(=O)NC2CN(CC2)C(=O)OC(C)(C)C)C)C)C=C1 | C27H32FN3O3
reactant | hydrogen chloride ethyl acetate | 4 M, 2.1 ml | Cl.C(C)(=O)OCC
reactant | methanol | 2 ml | CO | CH4O
solvent | ethyl acetate | 3.2 ml | C(C)(=O)OCC | C4H8O2
product | 1-(4-fluorobenzyl)-2,3-dimethyl-N-pyrrolidin-3-yl-1H-indole-5-carboxamide hydrochloride | 479 mg | Cl.FC1=CC=C(CN2C(=C(C3=CC(=CC=C23)C(=O)NC2CNCC2)C)C)C=C1 | InChI=1S/C22H24FN3O.ClH/c1-14-15(2)26(13-16-3-6-18(23)7-4-16)21-8-5-17(11-20(14)21)22(27)25-19-9-10-24-12-19;/h3-8,11,19,24H,9-10,12-13H2,1-2H3,(H,25,27);1H
